US04293695
5.0 g of triethyl 5-ethyl-3-hydroxy-8-oxo-2,3,5,8-tetrahydrofuro[3,2-b]-1,8-naphthyridine-2,2,7-tricarboxylate was added to 80 ml of 20% sulfuric acid and stirred at 100° C. for 2 hours. After allowing it to cool, the reaction solution was poured into ice water. The precipitated crystals were collected by filtration and recrystallized from dimethylformamide to obtain 2.61 g of 5,8-dihydro-5-ethyl-8-oxofuro-[3,2-b]-1,8-naphthyridine-2,7-dicarboxylic acid (Compound X where R1 =C2H5), m.p. >300° C.

reactant | triethyl 5-ethyl-3-hydroxy-8-oxo-2,3,5,8-tetrahydrofuro[3,2-b]-1,8-naphthyridine-2,2,7-tricarboxylate | 5.0 g | C(C)N1C=C(C(C=2C=C3C(=NC12)C(C(O3)(C(=O)OCC)C(=O)OCC)O)=O)C(=O)OCC | C21H24N2O9
solvent | sulfuric acid | 80 ml | S(O)(O)(=O)=O | H2O4S
product | 5,8-dihydro-5-ethyl-8-oxofuro-[3,2-b]-1,8-naphthyridine-2,7-dicarboxylic acid | 2.61 g | C(C)N1C=C(C(C=2C=C3C(=NC12)C=C(O3)C(=O)O)=O)C(=O)O | C14H10N2O6
